US09029544B2
5-Iodo-2-(trifluoromethyl)benzonitrile
In a microwave vial 2.24 g 5-bromo-2-(trifluoromethyl)benzonitrile are dissolved in 10 ml 1,4-dioxane. 90 mg copper-(I)-iodide and 2.7 g sodium iodide are added and the mixture is purged for 5 minutes with argon. 142 μl trans-N,N′-dimethylcyclohexane-1,2-diamine and 1.9 ml hexamethyldisilazane are added and the mixture is heated for 6 hours to 110° C. The mixture is diluted in 100 ml 4 M hydrochloric acid and stirred for 10 minutes. This aqueous phase is three times extracted with dichloromethane. The combined organic phases are washed with brine and dried with magnesium sulphate. The solvents are evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethylacetate 85:15).

reactant | sodium iodide | 2.7 g | [I-].[Na+]
reactant | 5-bromo-2-(trifluoromethyl)benzonitrile | 2.24 g | BrC=1C=CC(=C(C#N)C1)C(F)(F)F | C8H3BrF3N
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | copper-(I)-iodide | 90 mg | [Cu]I
product | 5-Iodo-2-(trifluoromethyl)benzonitrile | IC=1C=CC(=C(C#N)C1)C(F)(F)F | C8H3F3IN
